US05385692
Subsequently, 45.9 g (0.14M) of 6-bromo-2-n-octyl-1-indanone and 162.4 g (1.42M) of trifluoroacetic acid were placed in a 500 ml-reaction vessel. To the mixture, 41.4 g (3.57×10-1M) of triethylsilane was added dropwise in 15 minutes at room temperature. After the addition, the resultant mixture was heat-refluxed for 3.5 hours. After the reaction, the reaction mixture was poured into ice water and subjected to extraction with toluene, followed by successive washing with water and NaHCO3 aqueous solution, drying with anhydrous magnesium sulfate and distilling-off of the solvent. The resultant residue was subjected to vacuum distillation to obtain 40.3 g of 5-bromo-2-n-octylindan (Yield: 93.1%).

reactant | 6-bromo-2-n-octyl-1-indanone | 0.14M, 45.9 g | BrC1=CC=C2CC(C(C2=C1)=O)CCCCCCCC | C17H23BrO
reactant | trifluoroacetic acid | 1.42M, 162.4 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 3.57×10-1M, 41.4 g | C(C)[SiH](CC)CC | C6H16Si
product | 5-bromo-2-n-octylindan | 40.3 g, Yield: 93.1% | BrC=1C=C2CC(CC2=CC1)CCCCCCCC | C17H25Br
